data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2083,2311,[CH3:15][O:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22]#[N:23])[C:24]#[N:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([F:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([F:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([C:22]#[N:23])([C:24]#[N:25])[O:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:26]([CH3:27])=[O:28],water,298.15,7.366433895920272,-62.810676370316976
133,149,[CH3:12][C:13]#[N+:14][CH-:15][CH3:16].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:15]([CH3:16])[N:14]=[C:13]2[CH3:12],water,298.15,10.066778272011122,-49.03530228945384
3495,3986,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][O-:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[O:15][O:14][C:13]1([C:11]([CH3:10])=[O:12])[C:16]([CH3:17])=[O:18],water,298.15,11.208562003129831,-31.812597001919627
25,28,[CH3:1]/[C:2]([F:3])=[C:4](\[CH3:5])[F:6].[CH3:7][C:8](=[O:9])[N-:10][N+:11]#[C:12][C:13]#[N:14]>>[CH3:1][C@@:2]1([F:3])[C@:4]([CH3:5])([F:6])[N:10]([C:8]([CH3:7])=[O:9])[N:11]=[C:12]1[C:13]#[N:14],water,298.15,21.010449656942672,-48.10733943574076
831,901,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:20](=[O:21])[O:22][CH3:23])[N:15]=[C:16]3[C:17]([CH3:18])=[O:19],water,298.15,12.138610925750552,-52.74761741249525
2308,2564,[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[CH:25]=[N+:26]([CH3:27])[C-:28]([CH3:29])[C:30]([CH3:31])=[O:32]>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[CH:25]([C:23]([NH:22][CH3:21])=[O:24])[N:26]([CH3:27])[C:28]2([CH3:29])[C:30]([CH3:31])=[O:32],water,298.15,23.204618224360644,-31.297191343392573
5185,5884,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][C-:21]([C:22]#[N:23])[C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([C:22]#[N:23])([C:24]#[N:25])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,18.38526320265363,-16.60012282316134
1057,1152,[CH3:14][NH:15][C:16](=[O:17])[N-:18][N+:19]#[C:20][C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]=[C:20]2[C:21](=[O:22])[O:23][CH3:24],water,298.15,15.894377827657747,-47.09079906316885
817,886,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([CH3:20])[c:21](=[O:22])[o:23]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]1([CH3:20])[NH:18][C:17]3([C:15]([O:14][CH3:13])=[O:16])[O:23][C:21]1=[O:22],water,298.15,17.51690712558923,-24.37915601895186
2504,2783,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[c:27]1[nH+:28][c-:29]([C:30]#[N:31])[c:32](=[O:33])[o:34]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:29]1([C:30]#[N:31])[NH:28][C:27]2([C:25]([NH:24][CH3:23])=[O:26])[O:34][C:32]1=[O:33],water,298.15,21.043907055572788,-12.205998401151774
4136,4737,[CH3:10][c-:11]1[nH+:12][c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]2([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[NH:12][C:11]1([CH3:10])[C:21](=[O:22])[O:20]2,water,298.15,21.703486395916432,-3.038136720862505
4086,4679,[CH3:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[N+:12]([CH3:13])[C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:14]([C:15]#[N:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:12]([CH3:13])[C:9]1([C:7]([CH3:6])=[O:8])[C:10]#[N:11],water,298.15,69.96027238129729,54.71508256048882
